US04829075
Preparation of the Starting Material 1-bromo-3-chloropropyl 4-phenylphenyl ketone
246 g (0.95 mol) of 3-chloropropyl 4-phenylphenyl ketone in 380 ml of glacial acetic acid were placed in a reaction flask and 152 g (0.95 mol) of bromine were added dropwise at 30° C., the reaction commencing with dissolution and decolorization. After 1 hour, a thick precipitate deposited. The mixture was stirred for a further 4 hours at room temperature in order to complete the reaction. The crystals produced were filtered off under suction, washed with water, dissolved in dichloromethane, washed by shaking with NaHCO3 solution and water and dried, and 250 g (78% of theory) of the title substance were obtained as colorless crystals of melting point 85°-88° C.

reactant | 3-chloropropyl 4-phenylphenyl ketone | 0.95 mol, 246 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C(=O)CCCCl | C16H15ClO
reactant | bromine | 0.95 mol, 152 g | BrBr | Br2
solvent | acetic acid | 380 ml | C(C)(=O)O | C2H4O2
product | 1-bromo-3-chloropropyl 4-phenylphenyl ketone | C1(=CC=CC=C1)C1=CC=C(C=C1)C(=O)C(CCCl)Br | C16H14BrClO
